US07696223B2
e) 7-Bromo-2,3-dichloro-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A suspension of 2,3-dichloro-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (2.23 g, 6.46 mmol), N-bromosuccinimide (1.38 g, 7.75 mmol), and benzoyl peroxide (156 mg, 0.646 mmol) in 50 mL of benzene was heated at reflux temperature for 5 hours. The reaction mixture was washed successively with saturated sodium bicarbonate, brine, saturated ammonium chloride solution, and brine. The organic solution was dried, filtered, and concentrated. The crude product was purified by flash chromatography eluting from silica gel with a gradient of 0-2% ethyl acetate in hexanes to produce 1.36 g of a white solid. MS: (+) m/z 423.1 (M+1).

reactant | 2,3-dichloro-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 6.46 mmol, 2.23 g | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Cl)Cl)CCC(C)C)O | C15H18Cl2N2O3
reactant | N-bromosuccinimide | 7.75 mmol, 1.38 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.646 mmol, 156 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 7-Bromo-2,3-dichloro-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 1.36 g | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)N(C(=C2Cl)Cl)CCC(C)C)O | C15H17BrCl2N2O3
